US03956374
Step C: 4-(m-Methylcinnamyl)-4-phenyl-5-oxo-7-(p-chlorophenyl)-6-heptenoic Acid
Triton B (2 ml., 40% in MeOH) is added to a stirred solution of 1-(p-chlorophenyl)-4-phenyl-7-(m-methylphenyl)-1,6-heptadien-3-one (19.33 g., 0.05 mole) in glyme (250 ml.) followed by the addition of methyl acrylate (4.73 g., 0.055 mole) in glyme (50 ml.). The solution is stirred for 96 hours and the solvent is removed under reduced pressure. The residue is suspended in methanol (700 ml.) and a 20% sodium hydroxide solution (35 ml.) is added. After an additional 24 hours, the methanol is evaporated in vacuo and the residue is dissolved in water. Extraction with ether removes unreacted ketone. The aqueous solution is acidified and the solid that separates is collected, washed well with water, and air-dried, yield 9.78 g., m.p. 135°-144°C. Recyrstallization from butyl chloride produces material with m.p. 154°-155°C.

reactant | 1-(p-chlorophenyl)-4-phenyl-7-(m-methylphenyl)-1,6-heptadien-3-one | 0.05 mole, 19.33 g | ClC1=CC=C(C=C1)C=CC(C(CC=CC1=CC(=CC=C1)C)C1=CC=CC=C1)=O | C26H23ClO
reactant | methyl acrylate | 0.055 mole, 4.73 g | C(C=C)(=O)OC | C4H6O2
solvent | MeOH | CO | CH4O
solvent | glyme | 250 ml | C(OC)COC | C4H10O2
solvent | glyme | 50 ml | C(OC)COC | C4H10O2
product | 4-(m-Methylcinnamyl)-4-phenyl-5-oxo-7-(p-chlorophenyl)-6-heptenoic Acid | CC=1C=C(C=CCC(CCC(=O)O)(C(C=CC2=CC=C(C=C2)Cl)=O)C2=CC=CC=C2)C=CC1 | C29H27ClO3
